data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_602899_0,[C:1]([C:2]([N:4]([H:14])[H:15])([O:7][H:11])[H:13])([C:3]([O:6][H:10])=[O:8])([O:5][H:9])[H:12]>>[C:1](/[C:2](=[N:4]/[H:14])[H:13])([C:3]([O:6][H:10])([O:7][H:11])[O:8][H:15])([O:5][H:9])[H:12],43.79949999999155
MR_76414_0,[C:1](=[C:3]([C:2]([H:13])([H:14])[H:15])[C:5]([N:4]([H:8])[H:9])([O:6][H:7])[H:12])([H:10])[H:11]>>[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:5](/[N:4]([H:8])[H:9])[H:12])([O:6][H:7])([H:10])[H:11],51.07787249998509
MR_230724_1,[N:1]([C:2]([O:6][H:9])=[O:7])([O:5][C:3]([N:4]([H:11])[H:12])=[O:8])[H:10]>>[N:1]1([H:10])[C:2]([O:6][H:9])([O:7][C:3]([N:4]([H:11])[H:12])=[O:8])[O:5]1,70.56676750000392
MR_625159_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]2([N:5]([H:10])[C:2]([H:12])([H:13])/[C:7]2=[N:9]\[H:11])[C:8]1([H:20])[H:21]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:5]([H:10])[C:2]([H:12])([H:13])/[C:7](=[N:9]\[H:11])[C:6]1=[C:8]([H:20])[H:21],67.65579500000555
MR_209535_0,[C:1]12([H:8])[C:5]([C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:6]1([H:9])[O:7]2>>[C:1]1([C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([H:8])[C:5]([C:3]([H:12])([H:13])[H:14])=[C:6]([H:9])[O:7]1,46.55736250001979
MR_117259_0,[C:1]([C@:2]1([H:8])[C:3](=[O:6])[N:5]1[O:4][H:7])([H:9])([H:10])[H:11]>>[C:1](/[C:2]([C:3](=[O:6])[H:8])=[N:5]/[O:4][H:7])([H:9])([H:10])[H:11],47.94225500001886
MR_299954_1,[C:1]([C:2]([H:10])([H:11])[H:12])([O:5][H:7])(/[N:6]=[C:4](/[C:3]([H:13])([H:14])[H:15])[H:9])[H:8]>>[C:1](\[C:2]([H:10])([H:11])[H:12])(=[N:6]\[C:4]([C:3]([H:13])([H:14])[H:15])([O:5][H:7])[H:9])[H:8],62.89683500000024
MR_114971_1,[C:1]([C:2]([N:4]([C:5]([O:7][H:9])=[O:8])[H:10])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[H:11]>>[C:1](\[C:2]([N:4]([C:5]([O:7][H:9])([O:8][H:13])[H:11])[H:10])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[N:6]/[H:12],65.64026500002925
MR_633416_0,[C@:1]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:12])[H:13])[N:8]=[C:6]([H:17])[H:18])([O:7][N:4]([H:10])[H:11])[H:9]>>[C@@:1]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:12])[H:13])[O:7][N:4]([H:10])[H:11])([N:8]=[C:6]([H:17])[H:18])[H:9],71.5149199999999
MR_143884_1,[C:1]([C:2]([C:4]([C:3]([O:8][H:12])([H:17])[H:18])([O:6][H:10])[O:9][H:11])([N:5]([H:15])[H:16])[H:14])(=[O:7])[H:13]>>[C:1]([C:2]([C:4]([O:6][H:10])=[O:9])([N:5]([H:15])[H:16])[H:14])([C:3]([O:8][H:12])([H:17])[H:18])([O:7][H:11])[H:13],57.866795000001616
MR_594413_0,[C:1](/[N:9]=[C:4](/[C:5](=[C:6]([C:2]([H:17])([H:19])[H:20])[C:3]([H:18])([H:21])[H:22])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([N:9]1[C:4]([N:7]([H:10])[H:11])=[C:5]([N:8]([H:12])[H:13])[C:6]1([C:2]([H:17])([H:19])[H:20])[C:3]([H:18])([H:21])[H:22])([H:14])([H:15])[H:16],48.39719250001167
MR_268024_1,[C:1]([C:5]([N:4](/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:12])[N:7]([H:10])[H:11])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C@@:8]([C:3]([H:19])([H:20])[H:21])(/[C:6]([C:2]([H:16])([H:17])[H:18])=[N:4]\[N:7]([H:10])[H:11])[H:12])=[O:9])([H:13])([H:14])[H:15],60.70372249997291
MR_236578_1,[C:1](=[O:4])([N:5]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[O:6][H:7])[H:8]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([O:4][H:7])([N:5]=[O:6])[H:8],57.557437499997945
MR_15307_0,[C:1]([C:3](/[C:5](=[C:4](\[C:2]([O:6][H:8])([H:10])[H:11])[H:14])[H:15])([H:12])[H:13])(=[O:7])[H:9]>>[C:1]1([O:7][H:8])([H:9])[C:3]([H:12])([H:13])[C:5]([H:15])=[C:4]([H:14])[C:2]([H:10])([H:11])[O:6]1,45.67321500000489
MR_678944_1,[C:1]1([C:4]([H:16])([H:17])[H:18])(/[C:7]([N:8]([H:11])[H:12])=[C:9](/[C:6]([H:22])([H:23])[H:24])[H:15])[C:2]([C:5]([H:19])([H:20])[H:21])([H:10])[C:3]1([H:13])[H:14]>>[C:1]1([C:4]([H:16])([H:17])[H:18])=[C:7]([N:8]([H:11])[H:12])[C:9]([C:6]([H:22])([H:23])[H:24])([H:15])[C:2]([C:5]([H:19])([H:20])[H:21])([H:10])[C:3]1([H:13])[H:14],56.5885774999829
MR_193601_0,[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:9])[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:7]([O:5][H:8])[O:6][H:9])([H:10])([H:11])[H:12],70.22979999999862
MR_292984_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3](=[C:5](\[O:7][H:9])[H:13])[O:6][H:8])([N:4]([H:11])[H:12])[H:10]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:4]([H:11])[H:12])[C:3]([O:6][H:8])([H:10])[C:5]1([O:7][H:9])[H:13],71.19740499998116
MR_688837_0,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4](=[O:9])[H:13])[H:12])([C:5](=[C:6]([H:18])[H:19])[H:14])([O:7][H:10])[O:8][H:11]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:14])([O:9][H:10])[H:13])[H:12])(=[O:7])[O:8][H:11],57.88750250002067
MR_18796_1,[C:1](/[C:4](=[C:3]([N:5]([H:9])[H:10])/[C:7](=[C:8](/[C:2]([H:18])([H:19])[H:20])[H:14])[H:13])[N:6]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([N:6]([H:11])[H:12])[C:3]([N:5]([H:9])[H:10])=[C:7]([H:13])[C:8]1([C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17],45.32557999999085
